Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
acetaminophen
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with dementia and
hypertension who presented to the ED after a fall at her nursing
home (___).

Patient reports that she got up from bed to use the restroom and
tripped over a rug on the floor. She struck her head on a piece
of furniture resulting in two lacerations on her scalp. At that
point, she used her call button to summon a nurse. She denies
loss of consciousness, dizziness, lightheadedness, or 
presyncopal
symptoms prior to the fall. She also landed on her left wrist.

Patient states that she was feeling well prior to the fall.
Patient and facility both deny any preceding illness, nausea,
vomiting, and diarrhea. Review of systems also negative for
abdominal pain and dysuria.

In the ED, initial vitals:  T 96.8  HR 60  BP 156/52  RR 16  
SpO2
98%RA

- Exam notable for two lacerations on her left scalp and
tenderness of her left wrist.
- Labs were notable for:
   H/H 11.3/34.3, Plts 134
   BUN/Cr 38/1.6
   UA with small ___, mod blood, 30 protein, few bacteria, 6 epi
- Imaging:  Head CT without acute intracranial abnormality, L
hand XR with lateral subluxation of the ulna, and R tib/fib XR
without fracture or dislocation.
- Patient was given:  500mL NS, acetaminophen 1g, primidone
250mg, pramipexole 0.25mg
- Consults: Hand surgery

The patient's scalp lacerations were stapled in the ED. Hand
surgery was consulted and felt that this was likely chronic 
ulnar
variance with chronic degenerative chances and superimposed 
acute
sprain or exacerbation. They recommended a volar splint and
follow up in ___ in hand surgery
clinic.

She was admitted to medicine given concern for acute renal
failure. 

- Vitals prior to transfer were: T 98  HR 58  BP 114/91  RR 16 
SpO2 99%RA.

On arrival to the floor, patient endorses the above history. She
denies any current complaints.
 
Past Medical History:
Dementia
Hypertension
Tremor
 
Social History:
___
Family History:
Per patient, no history of chronic illnesses.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=============================
VS: 97.6 125 / 66  54  18  97% RA 
GENERAL: Pleasant elderly female lying in bed comfortably. NAD  
HEENT:  Normocephalic. Two lacerations on the left side of her
scalp with staples in place. PERRLA, EOMI. Sclera anicteric. 
MMM.
CARDIAC: Regular rate and rhythm, normal S1/S2. No murmurs, 
rubs,
or gallops.
LUNG: Clear to auscultation bilaterally. No wheezes, rales, or
rhonchi. No increased WOB.  
ABD: Soft, nontender, nondistended. NABS.
EXT: Warm, well perfused, no lower extremity edema  
NEURO: AAOx3. CN II-XII grossly intact. ___ strength throughout.
Slightly slow to answer questions.
SKIN: No lesions or rashes 

DISCHARGE PHYSICAL EXAM
=============================
VITALS: ___ 0747 Temp: 97.5 PO BP: 132/55 HR: 59 RR: 18 O2
sat: 97% O2 delivery: Ra 
GENERAL: Pleasant elderly female lying in bed comfortably. NAD  
HEENT:  Normocephalic. Two lacerations on the left side of her
scalp with staples in place. PERRLA, EOMI. Sclera anicteric. 
MMM.
CARDIAC: Regular rate and rhythm, normal S1/S2. No murmurs, 
rubs,
or gallops.
LUNG: Clear to auscultation bilaterally. No wheezes, rales, or
rhonchi. No increased WOB.  
ABD: Soft, nontender, nondistended. NABS.
EXT: Warm, well perfused, no lower extremity edema  
NEURO: AAOx3. CN II-XII grossly intact. ___ strength throughout.
Slightly slow to answer questions.
SKIN: No lesions or rashes 
 
Pertinent Results:
ADMISSION LABS
====================
___ 03:31AM BLOOD WBC-8.8 RBC-3.53* Hgb-11.3 Hct-34.3 
MCV-97 MCH-32.0 MCHC-32.9 RDW-14.3 RDWSD-51.1* Plt ___
___ 03:31AM BLOOD Glucose-122* UreaN-38* Creat-1.6* Na-143 
K-4.3 Cl-104 HCO3-28 AnGap-11
___ 03:31AM BLOOD Neuts-76.4* Lymphs-12.1* Monos-8.0 
Eos-2.4 Baso-0.5 Im ___ AbsNeut-6.76* AbsLymp-1.07* 
AbsMono-0.71 AbsEos-0.21 AbsBaso-0.04
___ 07:10AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.2

INTERVAL LABS
====================
___ 03:31AM BLOOD CK(CPK)-93

DISCHARGE LABS
====================
___ 09:30AM BLOOD WBC-8.5 RBC-3.48* Hgb-11.1* Hct-33.7* 
MCV-97 MCH-31.9 MCHC-32.9 RDW-14.3 RDWSD-50.5* Plt ___
___ 09:30AM BLOOD Glucose-107* UreaN-22* Creat-0.9 Na-144 
K-3.7 Cl-106 HCO3-28 AnGap-10
___ 09:30AM BLOOD Calcium-8.5 Phos-2.4* Mg-2.3

MICROBIOLOGY
====================
Urine culture with mixed flora likely contaminant.

IMAGING STUDIES
====================
CT C-Spine ___. Streak artifact from dental amalgam limits evaluation at C2.  
No displaced fracture seen. 
2. Normal alignment. 
3. Multilevel degenerative disease. 
4. Partially visualized right thyroid lobe is larger than the 
left with probable nodularity, which is difficult to measure 
accurately.

CT Head W/O Contrast ___
Linear hyperdensity along the anterior left temporal cortex is 
most likely artifactual rather than related to hemorrhage.  
However, given the ipsilateral scalp laceration and hematoma, a 
repeated head CT would be helpful for reassessment. 

CT Head W/O Contrast ___. No evidence for acute hemorrhage or other acute intracranial 
abnormalities. The linear hyperdensity along the left temporal 
lobe on the earlier CT was likely artifactual. 
2. Left parietal scalp laceration status post able repair.  No 
evidence for a fracture. 

Tib/Fib Right ___
No fracture or dislocation.

Left Hand X-Ray ___
Lateral subluxation of the ulna at the distal radioulnar joint, 
resulting in positive ulnar variance.  No acute fracture 
identified.  Chronic old fracture deformities of the distal 
radius and ulna. 
 
Brief Hospital Course:
___ with HTN and dementia presents after a fall at home that 
resulted in scalp lacerations and right ulnar subluxation. Upon 
presentation, she was noted to have an acute kidney injury.

# Fall
Patient presented after falling from her bed at ___ while 
attempting to go to the restroom. She reported hitting her head 
on a piece of furniture next to her bed but did not lose 
consciousness. During her fall, she sustained two lacerations to 
the left side of her scalp and a subluxation of her left ulna. 
Favor mechanical fall as patient denies preceding syncopal/ 
presyncopal events, palpitations, or other symptoms that would 
suggest alternative etiologies. Orthostatic vital signs were 
negative. EKG in the ED showed sinus bradycardia and no 
indication of arrhythmia. She was evaluated by physical therapy 
while inpatient who recommended she return home with a walker 
for additional stability while ambulating.

# ___
Patient presented with a Cr of 1.6 from reported baseline in 
___ of 0.7. Suspect prerenal etiology based on history of 
dizziness. Notably, patient also had moderate blood on urine 
dipstick in the absence of RBCs on urine microscopy, possibly 
suggestive of myoglobinuria and rhabdomyolysis. However, a CK 
was checked on admission and was not elevated. Furthermore, the 
patient reported only being down for a few minutes. She was 
given IVF with resolution of her ___ the morning after 
admission. Her losartan was held in the setting of ___. On 
discharge, she remained normotensive despite being off of the 
losartan, so it was held pending further evaluation in the 
outpatient setting.

# Left ulnar subluxation
Sustained during fall, as above. No acute fracture on imaging. 
Seen by hand surgery in ED, who felt that this was likely acute 
on chronic subluxation with some degenerative changes. They 
recommended a volar brace and follow up with Dr. ___ in 
hand surgery clinic within two weeks after discharge.

# Scalp lacerations
Two scalp lacerations on the left sustained during fall. Stapled 
in the ED. CT head without acute intracranial abnormalities. 
Staples should be removed within ___ days. This can be done by 
her primary care physician or she can return to the ___ ED to 
have this done.

Transitional Issues
========================
# Losartan - held in the setting of ___. Patient was 
normotensive while holding. Can be reevaluated in the outpatient 
setting.
# Left ulnar subluxation - to follow up in hand surgery clinic 
with Dr. ___ 2 weeks (on or around ___.
# Scalp lacerations - stapled in the ED on ___. Staples can 
be removed in ___ days, either by her primary care physician or 
by the ___ ED, whichever is more convenient.
# Ambulation - physical therapy recommended the use of a walker 
while ambulating. A script for this was supplied to the patient 
on discharge.

# CODE: Full (presumed) 
# CONTACT:
___ (daughter) ___
___ (daughter) ___
___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Losartan Potassium 50 mg PO DAILY 
3. PrimiDONE 250 mg PO BID 
4. Pramipexole 0.25 mg PO BID 
5. Simvastatin 40 mg PO QPM 
6. Propranolol LA 160 mg PO DAILY 

 
Discharge Medications:
1.  Donepezil 10 mg PO QHS  
2.  Pramipexole 0.25 mg PO BID  
3.  PrimiDONE 250 mg PO BID  
4.  Propranolol LA 160 mg PO DAILY  
5.  Simvastatin 40 mg PO QPM  
6. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until instructed to do 
so by your primary care physician.
7.Durable Medical Equipment
ICD 10: R26.2 Difficulty in walking, not elsewhere classified
Durable Medical Equipment: ___
Contact Info: ___ (___)

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
====================
Mechanical fall
Acute kidney injury
Acute on chronic subluxation of the left ulna

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from ___.

WHY WAS I ADMITTED?
=======================
- You fell getting out of your bed and hit your head.
- You had a mild kidney injury, likely from being a little 
dehydrated.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
=============================================
- The cuts on your head were stapled.
- We took images of your head to make sure you weren't bleeding 
into your brain.
- You had x-rays of your arm that show a mild dislocation.
- We gave you IV fluids to help your kidneys.
- Our physical therapists saw you and recommended you use a 
walker.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
==============================================
- Take all of your medications as prescribed.
- Call your primary care physician to schedule an appointment 
within a week to have your staples removed (on or around 
___. Alternatively, you can return to the emergency 
department and they will be able to remove them for you.
- Call the hand surgeon (Dr. ___ at ___ and 
schedule an appointment to be seen within the next two weeks.

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___